US09315521B2
A mixture of 3-(bromomethyl)-2,5-dichlorothiophene (125 mg, 0.51 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (60 mg, 0.42 mmol), and triethylamine (180 μL, 1.3 mmol) in absolute ethanol (5 mL) was stirred at room temperature overnight. The mixture was recovered and evaporated. The solid residue was treated with water (100 mL). The solid product was recovered by filtration, washed with water (1×15 mL), diethyl ether (2×15 mL), and hexanes (2×15 mL), and then dried in vacuo, affording 2-{[(2,5-dichlorothiophen-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (91 mg, 71% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.21 (s, 3H), 4.27 (s, 2H), 6.02 (s (br), 1H), 7.17 (s 1H); M+308.

reactant | 3-(bromomethyl)-2,5-dichlorothiophene | 0.51 mmol, 125 mg | BrCC1=C(SC(=C1)Cl)Cl | C5H3BrCl2S
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 0.42 mmol, 60 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 1.3 mmol, 180 μL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-{[(2,5-dichlorothiophen-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 91 mg, 71% yield | ClC=1SC(=CC1CSC1=NC(=CC(=N1)O)C)Cl | C10H8Cl2N2OS2
